** sch_path: /home/shlok/.xschem/xschem_library/xschem_sky130/sky130_tests/test_ac.sch
**.subckt test_ac
XM1 G PLUS S GND sky130_fd_pr__nfet_01v8_lvt L=2 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0
+ mult=1 m=1
XM2 OUT MINUS S GND sky130_fd_pr__nfet_01v8_lvt L=2 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0
+ mult=1 m=1
XM4 net7 BIAS GND GND sky130_fd_pr__nfet_01v8_lvt L=1 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0
+ sd=0 mult=1 m=1
XM3 OUT G VCC VCC sky130_fd_pr__pfet_01v8_lvt L=4 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0
+ mult=1 m=1
XM5 G G VCC VCC sky130_fd_pr__pfet_01v8_lvt L=4 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0
+ mult=1 m=1
Vtail S net7 0
.save i(vtail)
V2 VCC GND 1.8
V3 PLUS GND 0.91
V4 IN GND 0 ac 1 0 sin(0 1m 100meg 0 0 0)
C2 MINUS IN 1T m=1
L1 OUT MINUS 1T m=1
E1 net1 GND S GND 1
XM6 net2 OUT net1 GND sky130_fd_pr__nfet_01v8_lvt L=2 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0
+ sd=0 mult=1 m=1
E2 net2 GND OUT GND 1
XM7 BIAS BIAS GND GND sky130_fd_pr__nfet_01v8_lvt L=1 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0
+ sd=0 mult=1 m=1
Vtail1 net3 BIAS 0
.save i(vtail1)
I0 VCC net3 10u
XM8 NBIAS NBIAS GND GND sky130_fd_pr__nfet_01v8_lvt L=1 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0
+ sd=0 mult=2 m=2
Vtail2 net4 NBIAS 0
.save i(vtail2)
I1 VCC_1V0 net4 10u
V1 VCC_1V0 GND 1
XM9 PBIAS NBIAS GND GND sky130_fd_pr__nfet_01v8_lvt L=1 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0
+ sd=0 mult=2 m=2
XM10 PBIAS PBIAS VCC_1V0 VCC_1V0 sky130_fd_pr__pfet_01v8_lvt L=1 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725
+ sa=0 sb=0 sd=0 mult=4 m=4
XM11 net5 PBIAS VCC_1V0 VCC_1V0 sky130_fd_pr__pfet_01v8_lvt L=1 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725
+ sa=0 sb=0 sd=0 mult=4 m=4
XM12 PBIAS_CMFB_AMP INP_SHIFT net5 net5 sky130_fd_pr__pfet_01v8_lvt L=1 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725
+ nrs=0.0725 sa=0 sb=0 sd=0 mult=4 m=4
XM13 PBIAS_CMFB_AMP INM_SHIFT net5 net5 sky130_fd_pr__pfet_01v8_lvt L=1 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725
+ nrs=0.0725 sa=0 sb=0 sd=0 mult=4 m=4
XM14 PBIAS_DIO VREF net5 net5 sky130_fd_pr__pfet_01v8_lvt L=1 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0
+ sb=0 sd=0 mult=4 m=4
XM15 PBIAS_DIO VREF net5 net5 sky130_fd_pr__pfet_01v8_lvt L=1 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0
+ sb=0 sd=0 mult=4 m=4
V5 VREF GND 0.3
V_INM INM GND 0.4
XM16 PBIAS_DIO NBIAS GND GND sky130_fd_pr__nfet_01v8_lvt L=1 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0
+ sb=0 sd=0 mult=2 m=2
XM17 PBIAS_DIO PBIAS_DIO VCC_1V0 VCC_1V0 sky130_fd_pr__pfet_01v8_lvt L=1 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725
+ nrs=0.0725 sa=0 sb=0 sd=0 mult=4 m=4
XM18 PBIAS_CMFB_AMP NBIAS GND GND sky130_fd_pr__nfet_01v8_lvt L=1 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725
+ sa=0 sb=0 sd=0 mult=2 m=2
XM19 PBIAS_CMFB_AMP PBIAS_DIO VCC_1V0 VCC_1V0 sky130_fd_pr__pfet_01v8_lvt L=1 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725
+ nrs=0.0725 sa=0 sb=0 sd=0 mult=4 m=4
XM20 NBIAS_CMFB_AMP PBIAS_CMFB_AMP VCC_1V0 VCC_1V0 sky130_fd_pr__pfet_01v8_lvt L=1 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58
+ nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0 mult=4 m=4
XM21 NBIAS_CMFB_AMP NBIAS_CMFB_AMP GND GND sky130_fd_pr__nfet_01v8_lvt L=1 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725
+ nrs=0.0725 sa=0 sb=0 sd=0 mult=4 m=4
XM22 INP PBIAS_CMFB_AMP VCC_1V0 VCC_1V0 sky130_fd_pr__pfet_01v8_lvt L=1 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725
+ nrs=0.0725 sa=0 sb=0 sd=0 mult=4 m=4
XR1 INP_SHIFT INP GND sky130_fd_pr__res_xhigh_po_0p35 L=15 mult=1 m=1
XM23 INP_SHIFT NBIAS_CMFB_AMP GND GND sky130_fd_pr__nfet_01v8_lvt L=1 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725
+ nrs=0.0725 sa=0 sb=0 sd=0 mult=4 m=4
XM24 INM PBIAS_CMFB_AMP VCC_1V0 VCC_1V0 sky130_fd_pr__pfet_01v8_lvt L=1 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725
+ nrs=0.0725 sa=0 sb=0 sd=0 mult=4 m=4
XR2 INM_SHIFT INM GND sky130_fd_pr__res_xhigh_po_0p35 L=15 mult=1 m=1
XM25 INM_SHIFT NBIAS_CMFB_AMP GND GND sky130_fd_pr__nfet_01v8_lvt L=1 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725
+ nrs=0.0725 sa=0 sb=0 sd=0 mult=4 m=4
XM26 net6 PBIAS VCC_1V0 VCC_1V0 sky130_fd_pr__pfet_01v8_lvt L=1 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725
+ sa=0 sb=0 sd=0 mult=8 m=8
XM27 INP INP_SHIFT net6 net6 sky130_fd_pr__pfet_01v8_lvt L=1 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0
+ sb=0 sd=0 mult=4 m=4
XM28 PBIAS_DIO_AMP INM_SHIFT net6 net6 sky130_fd_pr__pfet_01v8_lvt L=1 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725
+ nrs=0.0725 sa=0 sb=0 sd=0 mult=4 m=4
XM29 PBIAS_DIO_AMP NBIAS GND GND sky130_fd_pr__nfet_01v8_lvt L=1 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725
+ sa=0 sb=0 sd=0 mult=4 m=4
XM30 INP NBIAS GND GND sky130_fd_pr__nfet_01v8_lvt L=1 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0
+ sd=0 mult=4 m=4
XM31 INP PBIAS_DIO_AMP VCC_1V0 VCC_1V0 sky130_fd_pr__pfet_01v8_lvt L=1 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725
+ nrs=0.0725 sa=0 sb=0 sd=0 mult=4 m=4
XM32 PBIAS_DIO_AMP PBIAS_DIO_AMP VCC_1V0 VCC_1V0 sky130_fd_pr__pfet_01v8_lvt L=1 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58
+ nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0 mult=4 m=4
**** begin user architecture code
.lib /sky130A/libs.tech/ngspice/sky130.lib.spice tt



*.include test_ac.save
.option reltol=1e-5
+  abstol=1e-14 
.control
  save all
  op
  remzerovec
  write test_ac.raw
  set appendwrite
  ac dec 10 1 1e12
  remzerovec
  write test_ac.raw
  *tran 0.1n 100n
  *write test_ac.raw
  save all
  dc V_INM 0 1 0.1
  wrdata INP.dat v(inp) v(inm)
  write test_ac_dc.raw
.endc




**** end user architecture code
**.ends
.end
